US04740602
A solution of 20.8 g of 3-(4-chlorobutyl)indole [or 25.2 g of 3-(4-bromobutyl)indole] and 18.9 g of 1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine in 100 ml of acetonitrile is stirred at 20° for 12 hours. The usual working up is carried out, and 2-[4-(3-indolyl)butyl]-1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine ("A"), m.p. 113°-115° is obtained.

reactant | 3-(4-chlorobutyl)indole | 20.8 g | ClCCCCC1=CNC2=CC=CC=C12 | C12H14ClN
reactant | 3-(4-bromobutyl)indole | 25.2 g | BrCCCCC1=CNC2=CC=CC=C12 | C12H14BrN
reactant | 1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine | 18.9 g | C1NCCC2=C1SC1=C2C=CC=C1 | C11H11NS
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-[4-(3-indolyl)butyl]-1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine | N1C=C(C2=CC=CC=C12)CCCCN1CC2=C(CC1)C1=C(S2)C=CC=C1 | C23H24N2S
